US07888364B2
4-chloro-3-(pyridin-2-yl)nitrobenzene (1.47 g, 6.26 mmol) was suspended in EtOH (35 mL), and the SnCl2 (3.87 g; 20.4 mmol) and conc. HCl (5 mL) were added and rinsed in with a further 5 mLs EtOH. The solution was placed in a 40° C. oil bath and heated to 60° C. The solution was stirred at 60° C. for 1½ hr., cooled to RT and diluted with 1 N HCl (100 mL). This solution was poured into an Et2O/1 N HCl solution (100 mL:150 mL) and extracted. The aqueous layer was diluted with EtOAc (250 mL), cooled to 0° C., and made basic with 10 N NaOH (50 mL). This solution was extracted (EtOAc, 2×), and the combined organics were washed with brine and dried over Na2SO4 and charcoal. Suction filtration through celite gave a clear colorless solution which was concentrated to yield 4-chloro-3-(pyridine-2-yl)aniline (1.21 g, 5.93 mmol, 94% yield) as a cream colored crystalline solid which was used in the next reaction without further purification.

reactant | 4-chloro-3-(pyridin-2-yl)nitrobenzene | 6.26 mmol, 1.47 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])C1=NC=CC=C1 | C11H7ClN2O2
reactant | SnCl2 | 20.4 mmol, 3.87 g | Cl[Sn]Cl
reactant | HCl | 5 mL | Cl | ClH
solvent | EtOH | 35 mL | CCO | C2H6O
product | 4-chloro-3-(pyridine-2-yl)aniline | 5.93 mmol, 1.21 g, 94% yield | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
